US04788206
As in Example 115, (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid (3.08 g) and 4-nitrophenol (2.75 g) in 20 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (2.11 g). The mixture was stirred at room temperature for 3 days and after the usual work up, crystallization of the crude ester from 2-propanol-hexane gave 2.98 g of (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid 4-nitrophenyl ester, mp 95°-96.5° C.

reactant | (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid | 3.08 g | COC=1C=C(C=CC1OC)/C(=C/C=C/C(=O)O)/CCCCC | C18H24O4
reactant | 4-nitrophenol | 2.75 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.11 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (E,E)-5-(3,4-dimethoxyphenyl)-2,4-decadienoic acid 4-nitrophenyl ester | 2.98 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/CCCCC)\C1=CC(=C(C=C1)OC)OC)=O | C24H27NO6
